US07432279B2
6-amino-4-[(3-chloro-4-fluorophenyl)amino]-1,7-naphthyridine-3-carbonitrile
A solution of 4-[(3-chloro-4-fluorophenyl)amino]-6-[(4-methoxybenzyl)amino]-1,7-naphthyridine-3-carbonitrile (0.623 g, 1.45 mmol) and trifluoroacetic acid (14.5 mL) in methylene chloride 14.5 mL was stirred at room temperature overnight. The reaction was diluted with toluene and the solvents were evaporated. The crude product was purified by flash column chromatography (3% MeOH in CHCl3) to give a yellow solid (0.287 g, 64%). 1H NMR (400 MHz, DMSO-D6) 8 ppm 7.1 (s, 1 H) 7.3 (m, 1 H) 7.5 (t, J=9.0 Hz, 1 H) 7.6 (dd, J=6.2, 2.4 Hz, 1 H) 8.4 (s, 1 H) 8.8 (s, 1 H) 10.0 (s, 1 H)

reactant | 4-[(3-chloro-4-fluorophenyl)amino]-6-[(4-methoxybenzyl)amino]-1,7-naphthyridine-3-carbonitrile | 1.45 mmol, 0.623 g | ClC=1C=C(C=CC1F)NC1=C(C=NC2=CN=C(C=C12)NCC1=CC=C(C=C1)OC)C#N | C23H17ClFN5O
reactant | trifluoroacetic acid | 14.5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 14.5 mL | C(Cl)Cl | CH2Cl2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 6-amino-4-[(3-chloro-4-fluorophenyl)amino]-1,7-naphthyridine-3-carbonitrile | 0.287 g, 64% | NC=1C=C2C(=C(C=NC2=CN1)C#N)NC1=CC(=C(C=C1)F)Cl | C15H9ClFN5
